US06964981B2
(5-Oxo-4-phenyl-tetrahydrofuran-3-ylmethyl)carbamic acid tert-butyl ester
5-Oxo-4-phenyl-tetrahydrofuran-3-carbonitrile (Description 3; 7.1 g, 0.038 mol) was added to di-tert-butyldicarbonate (24 g), platinum dioxide catalyst (1.4 g), ethyl acetate (150 ml) and acetic acid (20 ml) and shaken under an atmosphere of hydrogen (50 psi) for 24 hours. The catalyst was removed by filtration, solvent removed in vacuo and the residue was purified using flash column chromatography on silica gel eluting in increasing concentrations of ethyl acetate in hexane (5-50%) to give the title compound as a brown oil (2.16 g).

reactant | 5-Oxo-4-phenyl-tetrahydrofuran-3-carbonitrile | 0.038 mol, 7.1 g | O=C1C(C(CO1)C#N)C1=CC=CC=C1 | C11H9NO2
reactant | di-tert-butyldicarbonate | 24 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
catalyst | platinum dioxide | 1.4 g | [Pt](=O)=O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | (5-Oxo-4-phenyl-tetrahydrofuran-3-ylmethyl)carbamic acid tert-butyl ester | 2.16 g | C(C)(C)(C)OC(NCC1COC(C1C1=CC=CC=C1)=O)=O | C16H21NO4
